US04061647
8 g of 2',4'-dichloro-5'-nitro-acetophenone were boiled for 4 hours under reflux in 31 ml of ethanol, after addition of 6.1 g of iron turnings and 6.5 ml of concentrated hydrochloric acid. After evaporation of the solvent, the mixture was combined with water, extracted with ethyl acetate and the 5'-amino-2',4'-dichloroacetophenone was isolated by concentration of the ethyl acetate.

reactant | 2',4'-dichloro-5'-nitro-acetophenone | 8 g | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])C(C)=O | C8H5Cl2NO3
reactant | hydrochloric acid | 6.5 ml | Cl | ClH
solvent | ethanol | 31 ml | C(C)O | C2H6O
catalyst | iron | 6.1 g | [Fe] | Fe
product | 5'-amino-2',4'-dichloroacetophenone | NC=1C(=CC(=C(C1)C(C)=O)Cl)Cl | C8H7Cl2NO
